US04367234
5-(2-Ethoxy-6-fluorophenyl)oxazolidine-2,4-dione
By the procedure of Example 66, using a reaction time of 3 hours at room temperature, ethyl 1-(2-ethoxy-6-fluorophenyl)-1-hydroxymethanecarboximidate hydrochloride (0.56 g., 2 mmoles) in 55 ml. of tetrahydrofuran was converted to crude product. Recrystallization from toluene afforded purified 5-(2-ethoxy-6-fluorophenyl)oxazolidine-2,4-dione. (147 mg., m.p. 127°-128° C.).

reactant | ethyl 1-(2-ethoxy-6-fluorophenyl)-1-hydroxymethanecarboximidate hydrochloride | 2 mmoles, 0.56 g | Cl.C(C)OC1=C(C(=CC=C1)F)C(C(OCC)=N)O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(2-Ethoxy-6-fluorophenyl)oxazolidine-2,4-dione | C(C)OC1=C(C(=CC=C1)F)C1C(NC(O1)=O)=O | C11H10FNO4
